US08445510B2
cis-4-(Toluene-4-sulfonyloxy)-cyclohexanecarboxylic acid ethyl ester
To a solution of ethyl cis-4-hydroxycyclohexanecarboxylate (4.30 g, 25.0 mmol), p-toluenesulfonyl chloride (7.14 g, 37.4 mmol) and DCM (100 mL, 2000 mmol) was added triethylamine (6.96 mL, 49.9 mmol) at rt. The mixture was stirred at 25° C. overnight. The solution was transferred to a separatory funnel, washed with 2 M HCl to remove base, then washed with sat. NaHCO3. The organic layer was dry-loaded onto silica gel for column chromatography, eluting with 10-20% EtOAc/hexanes. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a clear oil. 1H NMR (400 MHz, DMSO-d6): δ=1.16 (t, J=7.2 Hz, 3H), 1.52-1.67 (m, 8H), 2.31-2.40 (m, 1H), 2.42 (s, 3H), 4.05 (q, J=7.1 Hz, 2H), 4.66 (br. s., 1H), 7.47 (m, J=7.8 Hz, 2H), 7.80 (m, J=8.3 Hz, 2H).

reactant | ethyl cis-4-hydroxycyclohexanecarboxylate | 25.0 mmol, 4.30 g | O[C@H]1CC[C@H](CC1)C(=O)OCC | C9H16O3
reactant | p-toluenesulfonyl chloride | 37.4 mmol, 7.14 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | DCM | 2000 mmol, 100 mL | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 49.9 mmol, 6.96 mL | C(C)N(CC)CC | C6H15N
product | cis-4-(Toluene-4-sulfonyloxy)-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1CC[C@@H](CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C16H22O5S
